US04788195
N-[4-(2-Propenyloxy)phenyl]-4-(3-pyridinyl)-2-pyrimidinamine
A 2.73 g portion of dry 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol was dissolved in 50 ml of dry dimethylformamide. A 528 mg portion of sodium hydride (50% in oil) was added, the reaction was sealed and stirred for 45 minutes. A solution of 1.33 g of allyl bromide in 10 ml of dimethylformamide was added, the sealed mixture was stirred overnight and then evaporated at 80° C. The residue was partitioned between water and chloroform. The organic phase was separated, dried and filtered. The filtrate was evaporated and the residue crystallized from chloroform-hexane, giving 1.7 g of the desired product as yellow crystals, mp 105°-108° C.

reactant | 4-[[4-(3-pyridinyl)-2-pyrimidinyl]amino]phenol | N1=CC(=CC=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)O | C15H12N4O
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | 1.33 g | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-[4-(2-Propenyloxy)phenyl]-4-(3-pyridinyl)-2-pyrimidinamine | 1.7 g | C(C=C)OC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C18H16N4O
